Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with placement of DES to RCA
 
History of Present Illness:
___ yo man with hypertension, current smoker, non-alcoholic fatty 
liver disease (NAFLD), who woke up this morning with chest 
pressure, cold sweats, headache, and nausea. He went back to 
sleep, but then woke up again with similar symptoms. He states 
that the pressure was severe, radiated to left arm, and felt as 
though someone was kneading dough in his chest. This sensation 
was persistent, and he finally called his PCP who recommended 
that he present to the ED. EMS gave the patient aspirin ___s nitroglycerin. Per report, he became hypotensive with 
nitroglycerin.

In the ED intial vitals were: Pain 4 HR 84 BP 97/62 RR 18 SaO2 
99% on RA. Patient was given morphine 5 mg. Troponin elevated to 
0.49. Patient was started on heparin drip. Rectal exam with 
guaiac negative stool. ECG with new Q-waves in inferior leads as 
well as diffuse anterolateral T wave flattening.

On the cardiology floor, patient reported feeling improved, but 
still endorsing ___ chest pressure. He denied dyspnea with 
exertion or at night, orthopnea, weight gain.
 
Past Medical History:
Hypertension
Tobacco use
NAFLD
 
Social History:
___
Family History:
His mother died at age ___ from complications of diabetes 
___, renal failure, and was on hemodialysis. His father 
died in his early ___ from spinal cancer. One sister has 
diabetes ___.
 
Physical Exam:
On Admission
GENERAL: Middle aged man in NAD
VS: T=98.4 BP=113/80 HR=80s RR=12 O2 sat=100% on RA
NECK: Supple with JVP of 7 cm.
CARDIAC: RRR, ectopy; no murmurs, rubs or gallops
LUNGS: Mild wheezing which resolved
ABDOMEN: Soft non tender
EXTREMITIES: No edema. 2+ pulses

At Discharge
GENERAL: NAD
VS: T 99.4 Tmax 98.8 BP 97-138/64-71 HR ___ RR 18 SaO2 95-100% 
on RA
WT ___ kg
NECK: Supple with JVP not elevated.
CARDIAC: RRR; no murmurs, rubs or gallops.
LUNGS: CTAB
ABDOMEN: Soft non tender
EXTREMITIES: No edema. 2+ pulses
 
Pertinent Results:
___ 02:10PM BLOOD WBC-9.5 RBC-5.09 Hgb-15.6 Hct-48.0 MCV-94 
MCH-30.7 MCHC-32.5 RDW-12.3 Plt ___
___ 02:10PM BLOOD Neuts-83.6* Lymphs-12.5* Monos-3.2 
Eos-0.3 Baso-0.5
___ 02:10PM BLOOD ___ PTT-31.1 ___
___ 02:10PM BLOOD Glucose-107* UreaN-12 Creat-0.8 Na-142 
K-4.1 Cl-101 HCO3-31 AnGap-14
___ 06:54AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.1

___ 02:10PM BLOOD CK-MB-107* MB Indx-11.2*
___ 02:10PM BLOOD cTropnT-0.49*
___ 06:54AM BLOOD CK-MB-210* MB Indx-9.0* cTropnT-3.67*
___ 06:40AM BLOOD CK-MB-46* MB Indx-3.6 cTropnT-4.82*
___ 06:35AM BLOOD CK-MB-10 MB Indx-1.8 cTropnT-4.86*

___ 06:35AM BLOOD WBC-9.7 RBC-4.15* Hgb-12.7* Hct-39.3* 
MCV-95 MCH-30.5 MCHC-32.3 RDW-12.3 Plt ___
___ 06:35AM BLOOD Glucose-81 UreaN-19 Creat-0.9 Na-143 
K-4.1 Cl-109* HCO3-30 AnGap-8
___ 06:35AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.9

ECG ___ 1:33:50 ___  
Sinus rhythm. Diffuse non-specific ST segment flattening 
throughout. There are tiny non-diagnostic Q waves inferiorly. 
Compared to the previous tracing of ___ the rate is faster. T 
wave amplitude is flatter. Non-specfiic repolarization 
abnormalities are unchanged.

ECG 8:36:16 AM 
Sinus rhythm with two ventricular premature beats. There are two 
small Q waves in the inferior leads with one millimeter of J 
point elevation in leads III and aVF and slightly early anterior 
R wave progression consistent with evolving inferoposterior 
myocardial infarction. Compared to tracing #2 non-specific ST 
segment flattening persists throughout and ventricular ectopy is 
unchanged.

Cardiac Catheterization ___
Hemodynamic Measurements (mmHg)
Baseline
SiteSysDiasEndMeanHR
___
Hemodynamics (see above): Borderline systemic arterial blood
pressure throughout the case.
Coronary angiography: right dominant
  LMCA: Patent.
  LAD: Moderate diffuse disease in mid segment (between D1-2) 
and 50% at the takeoff of the D2. The D2 has 80% hazy 
ostial-proximal lesion with TIMI 3 flow.
  LCX: Takes off at 90 degree angle and gives two large OMs and 
a small distal AV groove. The OM2 has 80% focal
  RCA: Somewhat posterior takeoff. Acute occlusion proximally 
with TIMI 0 antegrade flow beyond. The distal branches receive 
collaterals from the left system.
Interventional details
  Change for ___ AL1 after AL 0.75 proved too short. Wired with 
___ Graphix Intermediate after failure of Prowater to traverse 
the total occlusion. Predilated with 2.0x15 mm balloon at 10 ATM 
with full balloon expansion. Interim angiography showed 
minimally improved antegrade flow due to a combination of vessel 
recoil and spasm. Intraluminal IC spasmolytic administered and 
additional balloon dilatation with 2.5x20 mm ballon with full 
expansion at 10 ATM. We then deployed 3.0x20 mm Promus 
drug-eluting stent at 14 ___ with full expansion. Postdilated 
with 3.25x15 mm balloon (x2 overlapping inflations) at 18 ATM. 
Final angiography showed excellent result with 0% residual 
stenosis within the stent. TIMI 3 flow noted throughout. The 
proximal RPDA has 30% tubular lesion.

Echocardiogram ___
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with severe hypokinesis to 
akinesis of the inferior wall, basal to mid inferoseptum and 
basal inferolateral walls. The remaining segments contract 
normally (LVEF = 40-45 %). Tissue Doppler imaging suggests a 
normal left ventricular filling pressure (PCWP<12mmHg). The 
right ventricular cavity is mildly dilated with mild global free 
wall hypokinesis. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
IMPRESSION: Regional left ventricular systolic dysfunction c/w 
CAD. Mildly increased right ventricular cavity size and mildly 
decreased systolic function. Mild mitral regurgitation.
 
Brief Hospital Course:
___ yo man with hypertension and tobacco use presenting with 
inferior STEMI now S/P placement of DES in the RCA.
 
# Inferior STEMI: Patient presented initially with chest pain 
and was found to have elevated troponins. Serial EKGs showed 
progressing q-waves in the inferior leads as well. While in 
hospital, he continued to have chest pain and on ___, he under 
cardiac catheterization which demonstrated a complete occlusion 
of the proximal RCA. This was treated with a DES and thought to 
be the culprit lesion. In addition he had 50% stenosis of the 
LAD and 80% stenosis of the OM2 and DM. LVED was 16 mm Hg, 
consistent with mild acute (on likely chronic) LV diastolic 
dysfunction. His CK peaked at 2335 with MB peaking at 210. He 
had mild ST elevation in the inferior leads. Echocardiogram 
documented an LVEF of 40-45% with severe hypokinesis to akinesis 
of the inferior wall, basal to mid inferoseptum and basal 
inferolateral walls. The RV was noted to be mildly dilated and 
with mild dysfunction. The patient was started on metoprolol 
with dose titration and atorvastatin 80 mg. His lisinopril was 
decreased to 5 mg to allow for increased beta-blockade. He was 
started on clopidgrel which he should receive for one year. His 
aspirin should be continued for life; he had been on this 
medication prior to admission. He was repeatedly counseled on 
the importance of these medications and prior to discharge, 
extensive review of his medications were discussed. Patient was 
able to work with physical therapy prior to discharge with no 
concerns or impedance to discharge. He was provided with 
referral information to outpatient cardiac rehabilitation. He 
was set up with close follow up with his PCP and his new 
cardiologist.

# Hypertension: Per patient, his blood pressure had been well 
controlled prior to admission. During his hospitalization, he 
was started on metoprolol for post-MI secondary prevention and 
for his residual CAD. Because of this, his hydrocholorothiazide 
was discontinued. His lisinopril was decreased on discharge to 5 
mg daily to allow for increased beta-blockade effect. He did 
have occasional blood pressure readings in the ___, but was 
asymptomatic during these periods. He worked with physical 
therapy prior to discharge, and there was no concern for 
orthostatic symptoms, so he was discharged home. He should be 
reassessed in outpatient follow-up regarding titrating his ACE 
inhibitor as tolerated.

# NAFLD: Patient has documented history of non-alcoholic fatty 
liver disease noted by his PCP. He was started on atorvastatin 
during his hospitalization for secondary prevention post-MI. He 
was discharged with recommendation to follow up with his PCP, 
with specific mention to his PCP that he should be monitored for 
liver toxicity.

# Tobacco use: Patient has significant smoking history. Both he 
and his wife were counseled multiple times on the benefits and 
importance of quitting smoking. In particular, the association 
between his presentation and cardiac disease were stressed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY
2. Hydrochlorothiazide 25 mg PO DAILY
3. Aspirin 81 mg PO DAILY
4. Vitamin D 50,000 UNIT PO 1X/WEEK (___)
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
Your blood pressure was low in hospital. Please take lower dose 
until following up with your doctors 
___ *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
3. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
5. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
6. Vitamin D 50,000 UNIT PO 1X/WEEK ___
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Acute inferior ST elevation myocardial infarction
- Coronary artery disease
- Mild acute left ventricular systolic and diastolic heart 
failure
- Non-alcoholic fatty liver disease
- Hypertension
- Tobacco abuse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was our pleasure caring for you at ___ 
___. You were admitted for chest pain and found to 
have a heart attack. You went for cardiac catheterization and 
found to have blockages in multiple arteries. One artery was 
completely blocked and you had a stent placed to unblock your 
artery. Afterward you were feeling improved.

You should see your cardiologist Dr. ___ in three weeks 
for follow up with a plan for a possible stress test. In 
addition, please follow up with your PCP about your heart 
attack. We have started a new medication called atorvastatin and 
given your liver condition you should be monitored to make sure 
it remains stable. We have stopped your HCTZ 
(hydrocholarthiazide) for now as we are adjust some of your 
other medications. Please follow up with your PCP and 
cardiologist about if you need this restarted.
 
Followup Instructions:
___